US05310828
Preparation of Stain Resistant Composition with Nylofixan and Methacrylic Anhydride
The 81A product (11.51 gm) was allowed to react under the conditions of Example 1 with 5.28 gm XSA, 9.99 gm methacrylic acid, 2.78 gm AMPS, and 44.50 gm water. After reaction, 6.94 grams of water was added along with NaOH to adjust pH to 4.4 (referred to below as 81B). The solution contained 29% solids.

reactant | methacrylic acid | 9.99 gm | C(C(=C)C)(=O)O | C4H6O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 6.94 grams | O | H2O
solvent | water | 44.50 gm | O | H2O
product | Methacrylic Anhydride | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
